US09340556B2
To a solution of 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde (3.5 g, 4.26 mmol) in Dichloromethane (DCM) (80 mL) was added pyrrolidine (0.370 mL, 4.48 mmol) and sodium triacetoxyborohydride (1.355 g, 6.40 mmol). The mixture was stirred at r.t. for 1 h. Then reaction mixture was washed with sat. NaHCO3 (aq.) and brine, dried over sodium sulfate and the solvent was removed in vacuo. The crude product was then purified through normal phase chromatography (CombiFlash Rf), eluting with MeOH/DCM (0-20%) to afford 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)cinnolin-4(1H)-one (1.9 g, 3.37 mmol, 79% yield) as an orange solid. The desired product was dissolved in DCM and washed with sat. NaHCO3 (aq.) and brine, concentrated and passed through a flash column chromatography before being used for the next step. LCMS: (M+H)+: 564.4.

reactant | 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde | 4.26 mmol, 3.5 g | ClC1=C2C(C(=NN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)C=O)=O | C27H25ClN2O6
reactant | pyrrolidine | 4.48 mmol, 0.370 mL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 6.40 mmol, 1.355 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)cinnolin-4(1H)-one | 3.37 mmol, 1.9 g, 79% yield | ClC1=C2C(C(=NN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)CN1CCCC1)=O | C31H34ClN3O5
